US06770646B2
b) 2,6-Dihydro-2-methyl-4-(2-methylpropyl)-6-phenylmethyl-1H-pyrrolo[3,4-d]pyridazin-1-one
A solution of 2,6-dihydro-2-methyl-4-(2-methylpropyl)-1H-pyrrolo[3,4-d]pyridazin-1-one (0.65 g) in dry dimethyl formamide (3 ml) was added dropwise to sodium hydride (0.15 g of a 60% dispersion in oil) in dimethyl formamide (10 ml) with stirring. After 20 minutes benzyl bromide (0.45 ml) and a crystal of potassium iodide were added. The mixture was stirred for 11 days and then poured into dilute hydrochloric acid, which was extracted with ethyl acetate. The organic phase was washed with water, dried, and evaporated to give an oil, which was purified by chromatography on silica (ethyl acetate/isohexane 3:1) to afford, after crystallisation from cyclohexane, 2,6-dihydro-2-methyl-4-(2-methylpropyl)-6-phenylmethyl-1H-pyrrolo[3,4-d]pyridazin-1-one (0.3 g).

reactant | 2,6-dihydro-2-methyl-4-(2-methylpropyl)-1H-pyrrolo[3,4-d]pyridazin-1-one | 0.65 g | CN1N=C(C=2C(C1=O)=CNC2)CC(C)C | C11H15N3O
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | 0.45 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium iodide | [I-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl formamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 2,6-Dihydro-2-methyl-4-(2-methylpropyl)-6-phenylmethyl-1H-pyrrolo[3,4-d]pyridazin-1-one | CN1N=C(C=2C(C1=O)=CN(C2)CC2=CC=CC=C2)CC(C)C | C18H21N3O
